US08748645B2
Siliconate from methyltrimethoxysilane/propyldimethyldiethoxysilane/KOH (0.9:0.1:0.85)
A 500 ml 5-neck round-bottom flask, inertized with nitrogen and fitted with paddle stirrer, dropping funnel, thermometer, and water separator with reflux condenser, is charged with 27 g (0.198 mol) of methyltrimethoxysilane (available commercially from Wacker Chemie AG), 3.9 g (0.02) of n-propyl(methyl)diethoxysilane (prepared in the laboratory by reacting n-propyl(methyl)dichlorosilane with ethanol) and 20 g of Isopar E (isoparaffinic hydrocarbon mixture with a boiling range of 113-143° C., available commercially from ExxonMobil). The water separator is filled to the brim with Isopar E. Accompanied by stirring at 350 rpm, a solution of 12.4 g (0.188 mol) of potassium hydroxide (85% form, available commercially from AppliChem) in 7.9 g (0.44 mol) of demineralized water is metered in over 12 minutes. The mixture heats up to 48° C. It is heated to boiling temperature. The distillate separates off as the bottom phase in the water separator. Up to a boiling temperature of 95° C., 19.4 g of colorless, slightly turbid distillate accumulate, containing—according to analysis by gas chromatography—78.5% of methanol, 7.5% of ethanol, 3.5% of water, and 8.2% of Isopar E. The bottom phase is drained off from the water separator, which is made up completely with Isopar E again, and water is removed in circulation at a boiling temperature of up to 131° C. This produces 6.2 g of distillate as bottom phase, which according to GC analysis contains 46.9% of methanol, 4.7% of ethanol, and 48.4% of water. During the distillation, a pastelike white solid separates out in the reaction mixture, and breaks down increasingly into fine particles and forms a suspension. 10 g of cyclohexane are added and the suspension is filtered through a Beco KD3 filter plate in a pressure suction filter, and nitrogen is passed through to constant weight. This gives 21.4 g of fine, white, free-flowable powder with a solids content of 99.5% (determined using the HR73 halogen moisture analyzer from Mettler Toledo at 160° C.). A 50% strength aqueous solution prepared with this solid exhibits no precipitation even after storage at room temperature for two weeks in the absence of air.

reactant | methyltrimethoxysilane | 0.198 mol, 27 g | C[Si](OC)(OC)OC | C4H12O3Si
reactant | n-propyl(methyl)diethoxysilane | 3.9 g | C(CC)[Si](OCC)(OCC)C | C8H20O2Si
reactant | n-propyl(methyl)dichlorosilane | C(CC)[Si](Cl)(Cl)C | C4H10Cl2Si
reactant | potassium hydroxide | 0.188 mol, 12.4 g | [OH-].[K+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | water | 0.44 mol, 7.9 g | O | H2O
product | methyltrimethoxysilane propyldimethyldiethoxysilane KOH | C[Si](OC)(OC)OC.C(CC)C(C)O[Si](OCC)(C)C.[OH-].[K+] | InChI=1S/C9H22O2Si.C4H12O3Si.K.H2O/c1-6-8-9(3)11-12(4,5)10-7-2;1-5-8(4,6-2)7-3;;/h9H,6-8H2,1-5H3;1-4H3;;1H2/q;;+1;/p-1
